US03994898
6-Pyrrolidino-2-ethyl-1,2,4-triazolo[4,3-b]pyridazine-3(2H-one
By substituting pyrrolidine for the butylamine in the procedure of Example 3 and then continuing with the procedure of Example 4, 6-pyrrolidino-1,2,4-triazolo[4,3-b]pyridazin-3(2H)-one and 6-pyrrolidino-2-ethyl-1,2,4-triazolo[4,3-b]-pyridazin-3(2H)-one, respectively, are obtained.

reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | butylamine | C(CCC)N | C4H11N
reactant | 6-pyrrolidino-1,2,4-triazolo[4,3-b]pyridazin-3(2H)-one | N1(CCCC1)C=1C=CC=2N(N1)C(NN2)=O | C9H11N5O
reactant | 6-pyrrolidino-2-ethyl-1,2,4-triazolo[4,3-b]-pyridazin-3(2H)-one | N1(CCCC1)C=1C=CC=2N(N1)C(N(N2)CC)=O | C11H15N5O
product | 6-Pyrrolidino-2-ethyl-1,2,4-triazolo[4,3-b]pyridazine | N1(CCCC1)C=1C=CC=2N(N1)CN(N2)CC | C11H17N5
